US08217168B2
Preparation 21: 3-[3,5-dioxo-6-phenyl-4-(phenylcarbonyl)-4,5-dihydro-1,2,4-triazin-2(3H)-yl]propanal (P21)
To a solution of 6-phenyl-4-(phenylcarbonyl)-1,2,4-triazine-3,5(2H,4H)-dione (84 mg, 0.286 mmol) in N,N-Dimethylformamide (DMF) (2 ml) under an argon atmosphere, triethylamine (0.050 ml, 0.359 mmol) was added and the mixture stirred at r.t. for 5 min., then acroleyn (0.020 ml, 0.299 mmol) was added and the mixture stirred overnight. Reaction was quenched by sat. NH4Cl (4 mL) and aq. layer extracted by Et2O (2×10 mL). Combined organic layers were washed by iced water, dried upon sodium sulphate and concentrated under reduced pressure to obtain 77 mg of title (77% yield).

reactant | 6-phenyl-4-(phenylcarbonyl)-1,2,4-triazine-3,5(2H,4H)-dione | 0.286 mmol, 84 mg | C1(=CC=CC=C1)C=1C(N(C(NN1)=O)C(=O)C1=CC=CC=C1)=O | C16H11N3O3
reactant | triethylamine | 0.359 mmol, 0.050 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-Dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-[3,5-dioxo-6-phenyl-4-(phenylcarbonyl)-4,5-dihydro-1,2,4-triazin-2(3H)-yl]propanal | 77% yield | O=C1N(N=C(C(N1C(=O)C1=CC=CC=C1)=O)C1=CC=CC=C1)CCC=O | C19H15N3O4
